US04882327
3-Ethylindolizin-1-carboxylic acid (D1)
A solution of methyl 2-pyridylacetate (6 ml) 2,6-lutidine (6 ml) and 2-bromobutyraldehyde (5.5 g) (P. Duhamel, L. Duhamel, J-Y. Valnot, Bull. Soc. Chim. Fr. 1973(4) 1465) in xylene (200 ml) was heated under reflux overnight, removing water by means of a Dean and Stark apparatus. The reaction mixture was cooled, washed with dilute citric acid solution and the organic phase dried (Na2SO4) and concentrated. Column chromatography (SiO2, CH2Cl2) of the residue afforded the methyl ester of the title compound (4.6 g). A solution of the ester (4.6 g) in EtOH (100 ml) and 1N NaOH (50 mL) was heated under reflux for 3h. The reaction mixture was cooled, the EtOH evaporated and the aqueous residue washed with Et2O (50 mL). Acidification of the aqueous layer afforded the title compound (3.0 g).

reactant | methyl 2-pyridylacetate | 6 ml | N1=C(C=CC=C1)CC(=O)OC | C8H9NO2
reactant | 2-bromobutyraldehyde | 5.5 g | BrC(C=O)CC | C4H7BrO
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Ethylindolizin-1-carboxylic acid | 4.6 g | C(C)C1=CC(=C2C=CC=CN12)C(=O)O | C11H11NO2
